US04131611
A 53.6 g portion of ethyl m-chlorophenylacetate (prepared by esterification of the corresponding acid), 51.5 g of N-bromosuccinimide and one gram of benzoyl peroxide in 1.25 liters of carbon tetrachloride is stirred with a Nichrome metal stirrer and refluxed for 20 hours. The mixture is cooled, filtered and concentrated to an orange oil. Vacuum distillation yields the product ethyl α-bromo-m-chlorophenylacetate.

reactant | ethyl m-chlorophenylacetate | ClC=1C=C(C=CC1)CC(=O)OCC | C10H11ClO2
reactant | N-bromosuccinimide | 51.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | one gram | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 1.25 liters | C(Cl)(Cl)(Cl)Cl | CCl4
product | ethyl α-bromo-m-chlorophenylacetate | BrC(C(=O)OCC)C1=CC(=CC=C1)Cl | C10H10BrClO2
